US04487945
By procedures similar to those described in Embodiments 24 and 25, 2,2,6-trimethyl-1-oxaspiro(2.5)oct-5-ene was treated with isopropyl alcohol in the presence of p-toluenesulfonic acid to obtain 1-(1-isopropoxy-1-methylethyl)-4-methyl-3-cyclohexen-1-ol. This alcohol was treated with vanadium(IV) bis(2,4-pentandionate) oxide and tert-butyl hydroperoxide followed by p-toluenesulfonic acid to obtain (±)-2-exo-hydroxy-4-(1-isopropoxy-1-methylethyl)-1-methyl-7-oxabicyclo[2.2.1]heptane. This intermediate was treated with benzyl chloride to yield the desired product, b.p. 120°-130° C. (0.2 mm).

reactant | 2,2,6-trimethyl-1-oxaspiro(2.5)oct-5-ene | CC1(OC12CC=C(CC2)C)C | C10H16O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1-(1-isopropoxy-1-methylethyl)-4-methyl-3-cyclohexen-1-ol | C(C)(C)OC(C)(C)C1(CC=C(CC1)C)O | C13H24O2
